US05506235
4-Hexylamino-2-methylquinolin-6-ol Hydrochloride Hemihemihydrate
In a manner similar to that described in Example 39, Part B, 4-chloro-2-methylquinolin-6-ol and hexylamine were transformed into the title compound: m.p. 234°-236° C.

reactant | 4-chloro-2-methylquinolin-6-ol | ClC1=CC(=NC2=CC=C(C=C12)O)C | C10H8ClNO
reactant | hexylamine | C(CCCCC)N | C6H15N
product | 4-Hexylamino-2-methylquinolin-6-ol Hydrochloride | Cl.C(CCCCC)NC1=CC(=NC2=CC=C(C=C12)O)C | InChI=1S/C16H22N2O.ClH/c1-3-4-5-6-9-17-16-10-12(2)18-15-8-7-13(19)11-14(15)16;/h7-8,10-11,19H,3-6,9H2,1-2H3,(H,17,18);1H
